### PR TITLE
Monad improvements

### PR DESCRIPTION
**Pull request by corlewis**
This improves the structure and naming consistency of the various monad rule sets, for both the nondet and trace monads. The main benefit is improved maintainability, in particular due to making sure that the nondet and trace monad rule sets are in sync.

There are 4 main categories of changes that were visible in the proofs:
* lemma renamings
* more consistently using `P` and `Q` for preconditions and postconditions
* the default name for bound variables produced when splitting on `bind` is now always `rv` instead of sometimes `r` or `x`. In the couple of cases where this caused confusion I added a `rename_tac` and fixed a useful name, but in general I kept this PR simple and just updated the uses of the bound variables.
* `hoare_True_E_R: : "⦃P⦄ f ⦃λ_ s. True⦄, -"` was removed from the `simp` set due to being unsafe, with `wp_post_tautE_R: ⦃λ_. True⦄ f ⦃λ_ _. True⦄` being added as a `wp` rule instead. This meant that some proof steps were changed from `simp` to `wp`, and that some proofs no longer needed to locally delete it from the `simp` set.

The lemma renamings needed in the proofs are listed in the third commit message. I have made comments in this PR showing examples of the other categories.

### CODE REVIEW

File: proof/refine/ARM/orphanage/Orphanage.thy [hunk 1]
```diff
@@ -699,12 +699,12 @@ lemma chooseThread_no_orphans [wp]:
...
-  apply (intro hoare_seq_ext[OF _ stateAssert_sp])
-  apply (rule hoare_seq_ext[where B="\<lambda>rv s. ?PRE s \<and> ksReadyQueues_asrt s \<and> ready_qs_runnable s
+  apply (intro bind_wp[OF _ stateAssert_sp])
+  apply (rule bind_wp[where Q'="\<lambda>rv s. ?PRE s \<and> ksReadyQueues_asrt s \<and> ready_qs_runnable s
                                             \<and> rv = ksCurDomain s"])
-   apply (rule_tac B="\<lambda>rv s. ?PRE s \<and> ksReadyQueues_asrt s \<and> ready_qs_runnable s
+   apply (rule_tac Q'="\<lambda>rv s. ?PRE s \<and> ksReadyQueues_asrt s \<and> ready_qs_runnable s
                              \<and> curdom = ksCurDomain s \<and> rv = ksReadyQueuesL1Bitmap s curdom"
-                in hoare_seq_ext)
+                in bind_wp)
```
Comment (corlewis) [inline proof/refine/ARM/orphanage/Orphanage.thy:707]: This is an example of the second category of proof changes from the PR description; the conditions in the various `bind_wp` rules are now `P`, `Q'` and `Q`, instead of `A`, `B` and `C`.

File: proof/refine/ARM/IpcCancel_R.thy [hunk 2]
```diff
@@ -934,8 +934,8 @@ lemma (in delete_one_conc_pre) cancelIPC_st_tcb_at:
    \<lbrace>\<lambda>rv. st_tcb_at' P t\<rbrace>"
   apply (simp add: cancelIPC_def Let_def getThreadReplySlot_def
              cong: if_cong Structures_H.thread_state.case_cong)
-  apply (rule hoare_seq_ext [OF _ gts_sp'])
-  apply (case_tac x, simp_all add: isTS_defs list_case_If)
+  apply (rule bind_wp [OF _ gts_sp'])
+  apply (case_tac rv, simp_all add: isTS_defs list_case_If)
```
Comment (corlewis) [inline proof/refine/ARM/IpcCancel_R.thy:938]: This is an example of the third category of proof changes from the PR description; the `bind_wp` step now names the bound variable produced `rv`.

File: proof/refine/ARM/Ipc_R.thy [hunk 3]
```diff
@@ -264,11 +264,7 @@ lemmas unifyFailure_discard2
 lemma deriveCap_not_null:
   "\<lbrace>\<top>\<rbrace> deriveCap slot cap \<lbrace>\<lambda>rv. K (rv \<noteq> NullCap \<longrightarrow> cap \<noteq> NullCap)\<rbrace>,-"
   apply (simp add: deriveCap_def split del: if_split)
-  apply (case_tac cap)
-          apply (simp_all add: Let_def isCap_simps)
-  apply wp
-  apply simp
-  done
+  by (case_tac cap; wpsimp simp: isCap_simps)
```
Comment (corlewis) [inline proof/refine/ARM/Ipc_R.thy:267]: This is an example of the fourth category of proof changes from the PR description; many of the cases here were previously solved by `simp`, now they are all solved by `wp`.

**Comment by lsf37** [comment]
This is great. It'll take some time to retrain muscle memory, but it is much more consistent and easier to remember now!

**Comment by corlewis** [comment]
The commit updating the proofs has now been split into two, one with just the lemma renamings and the second with the more manual changes. This will hopefully make it a bit easier to review.

File: lib/Monads/nondet/Nondet_VCG.thy [hunk 4]
```diff
@@ -186,51 +213,65 @@ lemma hoare_conj:
...
   "\<lbrace>\<bottom>\<rbrace> f \<lbrace>P\<rbrace>"
   by (simp add:valid_def)
 
+lemma hoare_FalseE[simp]:
+  "\<lbrace>\<bottom>\<rbrace> f \<lbrace>Q\<rbrace>, \<lbrace>E\<rbrace>"
+  by (simp add: valid_def validE_def)
+
+\<comment> \<open>FIXME: remove?\<close>
 lemma hoare_return_drop_var[iff]:
   "\<lbrace>Q\<rbrace> return x \<lbrace>\<lambda>r. Q\<rbrace>"
```
Comment (lsf37) [inline lib/Monads/nondet/Nondet_VCG.thy:226]: For the following lemmas as well -- if they are unused, then yes we should definitely remove them. Of course the `iff` and `intro` ones might be used implicitly somewhere.

File: lib/Monads/nondet/Nondet_VCG.thy [hunk 5]
```diff
@@ -553,24 +566,48 @@ lemma hoare_vcg_disj_lift:
...
+  "\<lbrakk> \<And>x. x \<in> S \<Longrightarrow> \<lbrace>P x\<rbrace> f \<lbrace>Q x\<rbrace>,\<lbrace>E\<rbrace>; \<lbrace>\<lambda>s. True\<rbrace> f \<lbrace>\<lambda>r s. True\<rbrace>, \<lbrace>E\<rbrace> \<rbrakk> \<Longrightarrow> \<lbrace>\<lambda>s. \<forall>x\<in>S. P x s\<rbrace> f \<lbrace>\<lambda>rv s. \<forall>x\<in>S. Q x rv s\<rbrace>,\<lbrace>E\<rbrace>"
+  by (fastforce simp: validE_def valid_def split: sum.splits)
+
 lemma hoare_vcg_const_Ball_lift_R:
  "\<lbrakk> \<And>x. x \<in> S \<Longrightarrow> \<lbrace>P x\<rbrace> f \<lbrace>Q x\<rbrace>,- \<rbrakk> \<Longrightarrow> \<lbrace>\<lambda>s. \<forall>x \<in> S. P x s\<rbrace> f \<lbrace>\<lambda>rv s. \<forall>x \<in> S. Q x rv s\<rbrace>,-"
   unfolding validE_R_def validE_def
   by (rule hoare_strengthen_post)
      (fastforce intro!: hoare_vcg_const_Ball_lift split: sum.splits)+
 
+lemma hoare_vcg_const_Ball_lift_E_E:
```
Comment (lsf37) [inline lib/Monads/nondet/Nondet_VCG.thy:590]: Just confirming the naming between `fooE`, `foo_R`, and `foo_E_E`: is this the way we want it? (no underscore for the `E` wp variant and with underscore for the specialised forms)

File: lib/Monads/nondet/Nondet_VCG.thy [hunk 6]
```diff
@@ -553,24 +566,48 @@ lemma hoare_vcg_disj_lift:
...
-lemma hoare_vcg_all_lift_R:
+lemma hoare_vcg_all_liftE:
+  "\<lbrakk> \<And>x. \<lbrace>P x\<rbrace> f \<lbrace>Q x\<rbrace>,\<lbrace>E\<rbrace> \<rbrakk> \<Longrightarrow> \<lbrace>\<lambda>s. \<forall>x. P x s\<rbrace> f \<lbrace>\<lambda>rv s. \<forall>x. Q x rv s\<rbrace>,\<lbrace>E\<rbrace>"
+  by (fastforce simp: validE_def valid_def split: sum.splits)
+
+lemma hoare_vcg_all_liftE_R:
   "(\<And>x. \<lbrace>P x\<rbrace> f \<lbrace>Q x\<rbrace>, -) \<Longrightarrow> \<lbrace>\<lambda>s. \<forall>x. P x s\<rbrace> f \<lbrace>\<lambda>rv s. \<forall>x. Q x rv s\<rbrace>, -"
   by (rule hoare_vcg_const_Ball_lift_R[where S=UNIV, simplified])
 
+lemma hoare_vcg_all_liftE_E:
```
Comment (lsf37) [inline lib/Monads/nondet/Nondet_VCG.thy:607]: Ah, but we do also have `fooE_E` and `foorE_R`. I think I prefer these (the no-underscore version).

File: lib/Monads/nondet/Nondet_VCG.thy (hunk 5 above)
Comment (corlewis) [reply lib/Monads/nondet/Nondet_VCG.thy:590]: Good spotting, I missed that the first time through. I have some more improvements on the way that includes these lemmas; I have been trying to standardise on `foo`, `fooE`, `fooE_R`, and `fooE_E`.

Comment (lsf37) [reply lib/Monads/nondet/Nondet_VCG.thy:590]: Cool, happy for that to go in a  separate PR.

**Review by lsf37 — APPROVED** [review]
We might be nearing actual consistency :) Thanks for doing all this cleanup work. Our future brains will be relieved.

**Review by Xaphiosis — APPROVED** [review]
Can't find anything beyond what's been found already. I'm going to be even more confused after the renames, but consistency is definitely good.

**Comment by corlewis** [comment]
> Can't find anything beyond what's been found already. I'm going to be even more confused after the renames, but consistency is definitely good.

Consistency is the main aim of all this and I'm not particularly attached to the specific names I've chosen, so if there are any that you think will be particularly confusing then please point them out.

**Comment by Xaphiosis** [comment]
> > Can't find anything beyond what's been found already. I'm going to be even more confused after the renames, but consistency is definitely good.
> 
> Consistency is the main aim of all this and I'm not particularly attached to the specific names I've chosen, so if there are any that you think will be particularly confusing then please point them out.

I don't have anything better. The main thing to re-learn on this one are the `seq_ext` related rules, but I think the `bind*_wp[_pre]` scheme is ok.
